US08623859B2
2-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-{4-[(3-hydroxy-3-methylpyrrolidin-1-yl)methyl]benzyl}-N-methyl-1,3-oxazole-4-carboxamide
The title compound was prepared according to general procedure BH using 2-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazole-4-carboxylic acid (35 mg, 0.09 mmol), EDCI (24 mg, 0.12 mmol), HOBt (18 mg, 0.14 mmol) DIPEA (0.032 mL, 0.18 mmol) and 3-methyl-1-{3-[(methylamino)methyl]benzyl}pyrrolidin-3-ol dihydrochloride (30 mg, 0.10 mmol) in DCM (5 mL). The resulting residue was purified by FCC eluting with 5% MeOH in DCM to afford the title compound.

reactant | 2-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazole-4-carboxylic acid | 0.09 mmol, 35 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)O | C17H20N2O6S
reactant | EDCI | 0.12 mmol, 24 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.14 mmol, 0.032 mL, 18 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-methyl-1-{3-[(methylamino)methyl]benzyl}pyrrolidin-3-ol dihydrochloride | 0.10 mmol, 30 mg | Cl.Cl.CC1(CN(CC1)CC1=CC(=CC=C1)CNC)O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-{4-[(3-hydroxy-3-methylpyrrolidin-1-yl)methyl]benzyl}-N-methyl-1,3-oxazole-4-carboxamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)N(C)CC1=CC=C(C=C1)CN1CC(CC1)(C)O | C31H40N4O6S
